US08604034B2
5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-1-[2-(4-chlorophenyl)-2-oxoethyl]-1H-pyrrole-2-carboxylic acid (˜70% pure, 268 mg, 0.46 mmol) was stirred at reflux in 1,2-dichloroethane with ethane-1,2-diamine (938 μL) for 18 h. The resultant suspension was concentrated in vacuo to give a residue. The mixture was treated with CH2Cl2 (30 mL) and water (30 mL) to form an emulsion that was filtered through a filter system. The organic layer was then separated. The aqueous layer was extracted with further CH2Cl2 (2×30 mL). The combined organic layers were dried (MgSO4), filtered and concentrated in vacuo to give a waxy solid. Purification by flash column chromatography (Biotage SP4, 4 g cartridge, 0-5% MeOH gradient in CH2Cl2) gave 8-({[tert-butyl(dimethyl)silyl]oxy}methyl)-10a-(4-chlorophenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one as a off-white solid (85%, yield 42%). 1H NMR (400 MHz, MeOD): δ −0.11 (s, 3H), −0.04 (s, 3H), 0.79 (s, 9H), 2.79 (dt, 1H, J 12.2, 8.2 Hz), 3.32-3.37 (m, 1H), 3.51 (ddd, 1H, J 11.0, 7.9, 3.1 Hz), 3.71-3.79 (m, 1H), 4.20 (d, 1H, J 12.5 Hz), 4.44 (d, 1H, J 13.2 Hz), 4.56 (d, 1H, J 13.2 Hz), 4.76 (d, 1H, J 12.5 Hz), 6.05 (d, 1H, J 3.8 Hz), 6.77 (d, 1H, J 3.8 Hz), 7.25-7.35 (m, 4H).

reactant | 5-({[tert-butyl(dimethyl)silyl]oxy}methyl)-1-[2-(4-chlorophenyl)-2-oxoethyl]-1H-pyrrole-2-carboxylic acid | 0.46 mmol, 268 mg | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(N1CC(=O)C1=CC=C(C=C1)Cl)C(=O)O | C20H26ClNO4Si
reactant | ethane-1,2-diamine | 938 μL | C(CN)N | C2H8N2
reactant | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
reactant | water | 30 mL | O | H2O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 8-({[tert-butyl(dimethyl)silyl]oxy}methyl)-10a-(4-chlorophenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | yield 42% | [Si](C)(C)(C(C)(C)C)OCC1=CC=C2N1CC1(N(C2=O)CCN1)C1=CC=C(C=C1)Cl | C22H30ClN3O2Si
